US07256295B2
2,3-Diamino-6-methoxypyridine dihydrochloride, 25.0 gm (0.117 mole) was suspended in water (50.0 ml) and the mixture was cooled to 15° C. After cooling, the reaction mixture was neutralized with 25% aqueous ammonia solution to the pH of 7.0 to 8.0. The separated precipitate was stirred for half an hour and then filtered out. After drying under vacuum 14.95 gm of 2,3-diamino-6-methoxypyridine (92.0% yield) was obtained with a purity of 99.01% by HPLC.

reactant | 2,3-Diamino-6-methoxypyridine dihydrochloride | Cl.Cl.NC1=NC(=CC=C1N)OC
reactant | ammonia | N | H3N
solvent | water | 50.0 ml | O | H2O
product | 2,3-diamino-6-methoxypyridine | 14.95 gm, 92.0% yield | NC1=NC(=CC=C1N)OC | C6H9N3O
